* C:\Users\IEUser\Documents\Power-Pack\SPICE\BuckV1_Basic_Therm.asc
XU1 N005 0 N007 CHGIN2 N008 N006 LTC4440
L1 N002 CHGIN2 22µ Ipk=36.6 Rser=0.002236 Rpar=2072.4 Cpar=0 flux=0.000022*36.6*tanh(x/36.6)
XM1 CHGIN Gate CHGIN2 irfh7184pbf
C1 N006 CHGIN2 .22µ
XD1 N005 N006 BAS21
V1 N005 0 12
C2 N005 0 1µ
D3 0 CHGIN2 STTH60P03SW
C3 N002 0 1000µ V=63 Irms=1.41 Rser=0.2324
C4 N002 0 1000µ V=63 Irms=1.41 Rser=0.2324
C5 N002 0 1000µ V=63 Irms=1.41 Rser=0.2324
R1 N002 0 1 pwr=2000
C6 N003 0 1000µ V=63 Irms=1.41 Rser=0.2324
C7 N003 0 1000µ V=63 Irms=1.41 Rser=0.2324
V2 N003 0 48
V3 N007 0 PULSE(0 5 0 25n 25n {on} 2u)
R2 Gate N008 1m
B1 0 N004 I=((V(CHGIN)-V(CHGIN2))*I(R4))+(V(Gate)*I(R2))
R4 N003 CHGIN 0.001
XR3 N001 N004 irfh7184pbft
V4 N001 0 25
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.inc C:\Users\IEUser\Documents\Power-Pack\SPICE\Models\irfh7184pbf.spi
.inc C:\Users\IEUser\Documents\Power-Pack\SPICE\Models\BAS21.prm
* .lib C:\\Users\\IEUser\\Documents\\Power-Pack\\SPICE\\Models\\ultrafast_200v_300v_400v_v2.LIB
.tran 100m
.STEP param on 0.2u 1.8u 0.2u
.lib LTC4440.sub
.backanno
.end
