* C:\Users\IEUser\Documents\Power-Pack\SPICE\BuckV1_Basic_Therm.asc
XU1 N008 0 N010 CHGIN2 N011 N009 LTC4440
L1 N005 CHGIN2 22µ Ipk=36.6 Rser=0.002236 Rpar=2072.4 Cpar=0 flux=0.000022*36.6*tanh(x/36.6)
XM1 CHGIN Gate CHGIN2 irfh7184pbf
C1 N009 CHGIN2 .22µ
XD1 N008 N009 BAS21
V1 N008 0 12
C2 N008 0 1µ
D3 0 CHGIN2 60epu02
C3 N005 0 1000µ V=63 Irms=1.41 Rser=0.2324
C4 N005 0 1000µ V=63 Irms=1.41 Rser=0.2324
C5 N005 0 1000µ V=63 Irms=1.41 Rser=0.2324
R1 N005 0 1 pwr=2000
C6 N006 0 1000µ V=63 Irms=1.41 Rser=0.2324
C7 N006 0 1000µ V=63 Irms=1.41 Rser=0.2324
V2 N006 0 48
V3 N010 0 PULSE(0 5 0 25n 25n 1u 2u)
R2 Gate N011 1m
B1 0 N007 I=((V(CHGIN)-V(CHGIN2))*I(R4))+(V(Gate)*I(R2))
R4 N006 CHGIN 0.001
XR3 N004 N007 irfh7184pbft
V4 N004 0 25
B2 0 N003 I=V(CHGIN2)*I(D3)*-1
XR5 N001 N003 60epu02-THERM
V5 N001 0 25
R7 N003 0 100MEG
R8 N001 0 100MEG
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.inc Models\irfh7184pbf.spi
.inc Models\BAS21.prm
* .lib C:\\Users\\IEUser\\Documents\\Power-Pack\\SPICE\\Models\\ultrafast_200v_300v_400v_v2.LIB
.tran 100m uic
* .STEP param on 0.2u 1.8u 0.2u
.inc Models\VS-60epu02.txt
.lib LTC4440.sub
.backanno
.end
